US07541374B2
1.69 g of 3-cyano-1H-indole-1-ylmethanol was dissolved to 30 ml of dichloromethane. 1.4 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure to obtain 1.70 g of 1-(chloromethyl)-3-cyano-1H-indole.

reactant | 3-cyano-1H-indole-1-ylmethanol | 1.69 g | C(#N)C1=CN(C2=CC=CC=C12)CO | C10H8N2O
reactant | thionyl chloride | 1.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(chloromethyl)-3-cyano-1H-indole | 1.70 g | ClCN1C=C(C2=CC=CC=C12)C#N | C10H7ClN2
